US06906089B2
6-[2-(6-Methylpyridin-2-yl)-acetyl]quinoxaline
A stirred solution of 2,6-lutidine (1.4 g, 13 mmole) in dry THF (100 ml) at −60° C. under Ar was treated dropwise with a solution of BuLi in hexane (2.5 M, 5.2 ml, 13 mmole). After 30 mins a solution of Et2AlCl in hexane (14 ml, 14 mmole) was added dropwise and the solution warmed to 20° C. After a further 30 mins the solution was cooled to −50° C. and transferred via canula to a stirred solution of quinoxaline-6-carbonyl chloride (2.0 g, 10.3 mmole) in THF (100 ml) at −60° C. Stirring was continued for 20 min and the solution quenched with sat. aq. NH4Cl solution and warmed to 20° C. The mixture was filtered through Kieselguhr and the filtrate worked up as normal (EtOAc, water, Na2SO4). Filtration through silica eluting with EtOAc gave the product as a yellow solid (1.65 g, 51%). m/z [ESMS]: 264 [M+H]+.

reactant | 2,6-lutidine | 13 mmole, 1.4 g | N1=C(C=CC=C1C)C | C7H9N
reactant | BuLi | [Li]CCCC
reactant | hexane | 13 mmole, 2.5 M, 5.2 ml | CCCCCC | C6H14
reactant | Et2AlCl | [Al](CC)(CC)Cl
reactant | hexane | 14 mmole, 14 ml | CCCCCC | C6H14
reactant | quinoxaline-6-carbonyl chloride | 10.3 mmole, 2.0 g | N1=CC=NC2=CC(=CC=C12)C(=O)Cl | C9H5ClN2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-[2-(6-Methylpyridin-2-yl)-acetyl]quinoxaline | 1.65 g, 51% | CC1=CC=CC(=N1)CC(=O)C=1C=C2N=CC=NC2=CC1 | C16H13N3O
